US07547696B2
g.) 4-Methoxy-N-(4-methoxybenzoyl)-N-[6-(4-methylpiperazin-1-yl)-4-benzylamino-3-cyanoquinolin-2-yl]benzamide
To the solution of 0.6 g of 2-amino-3-cyano-4-benzylamino-6-(4-methylpiperazino)quinoline in 2 mL of pyridine, 0.6 mL of 4-methoxybenzoyl chloride is added under stirring and cooling. The reaction mixture is stirred at 80° C. for 8 hours, and then poured onto 5 mL of ice-water. The precipitated material is filtered off, washed twice with 3 mL of water. After drying 0.63 g of the title compound is obtained, m.p.: 176° C.

reactant | 2-amino-3-cyano-4-benzylamino-6-(4-methylpiperazino)quinoline | 0.6 g | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC1=CC=CC=C1)N1CCN(CC1)C | C22H24N6
reactant | 4-methoxybenzoyl chloride | 0.6 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-N-(4-methoxybenzoyl)-N-[6-(4-methylpiperazin-1-yl)-4-benzylamino-3-cyanoquinolin-2-yl]benzamide | COC1=CC=C(C(=O)N(C2=NC3=CC=C(C=C3C(=C2C#N)NCC2=CC=CC=C2)N2CCN(CC2)C)C(C2=CC=C(C=C2)OC)=O)C=C1 | C38H36N6O4
